US20010006969A1
4-Allylamino-2-methylamino-6-nitroquinazoline
A mixture of 230 mg (0.87 mmol) of 4-ailylamino-2-chloro-6-nitroquinazoline and 902 mg (12.88 mmol) of a 40% aqueous methylamine solution was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate, washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 190 mg (yield: 84.2%) of the title compound.

reactant | 4-ailylamino-2-chloro-6-nitroquinazoline | 0.87 mmol, 230 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | methylamine | CN | CH5N
solvent | Water | O | H2O
product | 4-Allylamino-2-methylamino-6-nitroquinazoline | 190 mg, yield: 84.2% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NC | C12H13N5O2
